US06596772B1
A mixture of 1,3-bis(4-aminophenoxy)benzene (0.5 g, 1.7 mmol), triflic anhydride (0.575 mL, 3.42 mmol) and sodium bicarbonate (0.57 g, 6.84 mmol) in DCM was stirred at rt overnight. The reaction was then extracted with EtOAc, washed with brine, dried and concentrated to give 1,3-bis(4-trifluoromethylsulfonamidophenoxy)benzene. 1HNMR (360 MHz, DMSO-d6) δ 11.71 (br s, 2H, 2×NH), 7.38 (t, J=8.2 Hz, 1H), 7.26 (m, 4H), 7.08 (m, 4H), 6.77 (dd, J=2.2 & 8.2 Hz, 2H), 6.64 (t, J=2.2 Hz, 1H). MS-EI m/z 556 [M+].

reactant | 1,3-bis(4-aminophenoxy)benzene | 1.7 mmol, 0.5 g | NC1=CC=C(OC2=CC(=CC=C2)OC2=CC=C(C=C2)N)C=C1 | C18H16N2O2
reactant | triflic anhydride | 3.42 mmol, 0.575 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | 6.84 mmol, 0.57 g | C([O-])(O)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1,3-bis(4-trifluoromethylsulfonamidophenoxy)benzene | FC(S(=O)(=O)NC1=CC=C(OC2=CC(=CC=C2)OC2=CC=C(C=C2)NS(=O)(=O)C(F)(F)F)C=C1)(F)F | C20H14F6N2O6S2
